US06716851B2
4-(2,5-Dimethoxyanilino)-2-(2-pyrazinyl)-6-(trifluoromethyl)pyrimidine
A mixture of 4-chloro-2-(2-pyrazinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.192 mmol), 2,5-dimethoxyaniline and aqueous 2N HCl (150 μl) in water:ethanol (1:1, 10 ml) was refluxed for 48 h. The mixture was cooled to room temperature and then basified with aqueous 2N NaOH to pH 10-12. The resulting precipitate was filtered, washed with water, water:ethanol (2:1) and isolated as a green-yellow solid (46 mg, 64%). 1H NMR (CDCl3): 9.74 (d, J=1.5 Hz, 1H), 8.79 (dd, J=1.8, 2.4 Hz, 1H), 8.72 (d, J=2.4 Hz, 1H), 7.80 (bs, 1H), 7.70 (s, 1H), 7.07 (s, 1H), 6.91 (d, J=9.3 Hz, 1H), 6.72 (dd, J=3.0, 9.0 Hz, 1H), 3.87 (s, 3H), 3.86 (s, 3H).

reactant | 4-chloro-2-(2-pyrazinyl)-6-(trifluoromethyl)pyrimidine | 0.192 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CN=C1 | C9H4ClF3N4
reactant | 2,5-dimethoxyaniline | COC1=C(N)C=C(C=C1)OC | C8H11NO2
reactant | HCl | 2N, 150 μl | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | water ethanol | 10 ml | O.C(C)O
product | 4-(2,5-Dimethoxyanilino)-2-(2-pyrazinyl)-6-(trifluoromethyl)pyrimidine | 46 mg, 64% | COC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CN=C2)C=C(C=C1)OC | C17H14F3N5O2
